US05395611
Synthesis of N-AC-4-S-CAP
A mixture of 2-methyl-2-oxazoline (16.9 mL, 0.197 mol) and 4-mercaptophenol (24.85 g, 0.197 mol) was heated under reflux (neat) for 2 h at about 130° C. under Ar (spontaneous heating occurred upon mixing). Upon cooling of the reaction mixture to 0° C., a white solid precipitated, which was collected and recrystallized from dilute EtOH to give a white product (36.2 g, 87%): mp 123°-125° C.; 1H NMR [(CD3)2 =O]δ6.99 (d,d, 4 H) , 3.50-2.60 (m, 5 H), 1.87 (s, 3 H); mass spectrum (EI) , m/e 211 (M+), (CI) m/e 212 (M+1). Anal. (C10H13NO2S) C,H,N.

reactant | 2-methyl-2-oxazoline | 0.197 mol, 16.9 mL | CC=1OCCN1 | C4H7NO
reactant | 4-mercaptophenol | 0.197 mol, 24.85 g | SC1=CC=C(C=C1)O | C6H6OS
product | N-AC-4-S-CAP | 36.2 g, 87% | CC(=O)NCCSC1=CC=C(C=C1)O | C10H13NO2S
